US07229990B2
(a). 5-Cyano-4-(3-nitrophenyl)-2-methylthio-6-hydroxy-pyrimidine
A mixture of S-methylisothiourea sulfate (69.0 g), 3-nitrobenzaldehyde (75.0 g), ethyl cyanoacetate (56.0 ml) and potassium carbonate (72.5 g) in abs. EtOH (1500 ml) was stirred at 60° C. for 16 h. The reaction mixture was cooled to 0° C. in an ice bath. The resulting precipitate was filtered off, washed with abs. EtOH and dissolved in hot water (100° C.). The solution was cooled to room temperature, acidified with 2N HCl to pH 2 and cooled to 0° C. in an ice bath. The resulting precipitate was filtered off and washed with ice water. Residual water in the precipitate was removed by coevaporation with 1,4-dioxane.

reactant | S-methylisothiourea sulfate | 69.0 g | S(=O)(=O)(O)O.CSC(N)=N
reactant | 3-nitrobenzaldehyde | 75.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ethyl cyanoacetate | 56.0 ml | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium carbonate | 72.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 1500 ml | CCO | C2H6O
product | 5-Cyano-4-(3-nitrophenyl)-2-methylthio-6-hydroxy-pyrimidine | C(#N)C=1C(=NC(=NC1O)SC)C1=CC(=CC=C1)[N+](=O)[O-] | C12H8N4O3S
